Band Stop Filter

*This code simulates a Band Stop filter using-
*Low Pass filter and High Pass filter in parallel onfiguration with a correction.
*Correction is required because-
*For High pass filter in low frequency range the output voltage is very low, so a capacitor(having a very high impedance at low frequencies) is added in series. 
*And for Low Pass filter in high frequency range the output voltage is very low, so a resistor is added in series.

*Low Pass filter components with cutoff frequency as 58Hz-
R1 1 2 1k
C1 2 0 2.744u 

*High Pass filter components with cutoff frequency as 48000Hz-
C2 1 3 1u
R2 3 0 3.316

*Correction for Low Pass filter-
R3 2 4 10k

*Correction for High Pass filter-
C3 3 4 0.01u

*Voltage Source-
Vin 1 0 dc 0 ac 1

*Control Block-
.control

*Sweep Settings-
ac dec 10 0.01 10Meg

*Color Settings-
set color0 = white
set color1 = black
set color2 = blue

*Plot Command-
plot vdb(4) xlog ylabel 'Gain (dB)'

.endc